US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-N-(1-ethyl-1H-pyrazol-3-yl)-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide
HATU (304 mg, 0.80 mmol) was added to 5-[(3-{[(1-ethyl-1H-pyrazol-3-yl)amino]carbonyl}-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}phenyl)oxy]pyrazine-2-carboxylic acid (0.4 mmol) and azetidine hydrochloride (75 mg, 0.89 mmol) in DMF (5 mL) followed by addition of DIPEA (0.278 mL, 1.6 mmol) and the reaction was stirred for 16 hours. The reaction mixture was added to ethyl acetate (20 mL), the organic solution washed with water (10 mL), 2N citric acid (10 mL), saturated aqueous sodium hydrogencarbonate (10 mL) and brine (10 mL), then dried (MgSO4), filtered and evaporated under reduced pressure to a gum. The residue was purified by chromatography on silica, eluting with 70-100% ethyl acetate in hexane, to give the desired compound as a white foam (98 mg). 1H NMR δ (CDCl3): 1.27 (d, 3H), 1.40 (t, 3H), 2.31 (quin, 2H), 3.34 (s, 3H), 3.43-3.54 (m, 2H), 4.01 (q, 2H), 4.19 (t, 2H), 4.54 (q, 1H), 4.62 (t, 2H), 6.73 (d, 1H), 6.87 (t, 1H), 7.18 (t, 1H), 7.27 (d, 1H), 7.30 (t, 1H), 8.26 (d, 1H), 8.49 (s, 1H), 8.78 (d, 1H); m/z 481 (M+H)+

reactant | HATU | 0.80 mmol, 304 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-[(3-{[(1-ethyl-1H-pyrazol-3-yl)amino]carbonyl}-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}phenyl)oxy]pyrazine-2-carboxylic acid | 0.4 mmol | C(C)N1N=C(C=C1)NC(=O)C=1C=C(C=C(C1)O[C@H](COC)C)OC=1N=CC(=NC1)C(=O)O | C21H23N5O6
reactant | azetidine hydrochloride | 0.89 mmol, 75 mg | Cl.N1CCC1
reactant | DIPEA | 1.6 mmol, 0.278 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-N-(1-ethyl-1H-pyrazol-3-yl)-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}benzamide | 98 mg | N1(CCC1)C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)NC2=NN(C=C2)CC)C=C(C1)O[C@H](COC)C | C24H28N6O5
